US05225402
To a solution of lithium aluminium hydride (0.9 g) in anhydrous tetrahydrofuran (160 ml) is added 2-(1-benzyl-4-piperidinylamino)-6-fluorobenzoic acid (8.0 g) and the mixture is refluxed for 1 hour. After cooling, the reaction solution is poured into ice-water and then extracted with dichloromethane. The solvent is concentrated and to the resulting residue is added diethyl ether/n-hexane. The precipitated crystal is collected by filtration to give N-(1-benzyl-4-piperidinyl)-2-hydroxymethyl-3-fluoroaniline (4.6 g) as light yellow powders, m.p.: 167°-170° C.

reactant | lithium aluminium hydride | 0.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(1-benzyl-4-piperidinylamino)-6-fluorobenzoic acid | 8.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C(=O)O)C(=CC=C1)F | C19H21FN2O2
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | N-(1-benzyl-4-piperidinyl)-2-hydroxymethyl-3-fluoroaniline | 4.6 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C(=CC=C1)F)CO | C19H23FN2O
